US04463177
3-(2-Bromo-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one
Lithium diisopropylamide was made from n-butyl lithium (1.55M in hexane, 12.9 ml) and diisopropylamine (2.8 ml) in THF (13 ml). The mixture was treated with 1-methyl-caprolactam (2.54 g) and then with 2-bromo-3-methoxycyclohexenone (4.1 g) in THF (15 ml). After 1 min. the reaction mixture was poured onto 5N HCl (8 ml) and cold water (100 ml). After 0.5 h ether was added and the organic phase separated, dried and evaporated. Recrystallisation of the residue from ethyl acetate gave the title compound (4.9 g), m.p. 112°-115° C. (d). (Found: C, 51.7; H, 6.2; N, 4.7%. C13H18BrNO2 requires: C, 52.0; H, 6.0; 4.7%).

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyl lithium | 1.55M, 12.9 ml | C(CCC)[Li]
reactant | diisopropylamine | 2.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-bromo-3-methoxycyclohexenone | 4.1 g | BrC=1C(CCCC1OC)=O | C7H9BrO2
reactant | HCl | 5N, 8 ml | Cl | ClH
reactant | THF | 13 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 3-(2-Bromo-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one | 4.9 g | BrC1=C(CCCC1=O)C1C(N(CCCC1)C)=O | C13H18BrNO2
